Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Percocet
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old female s/p SMA stent placement (___), s/p ___ 
stent placement (___) s/p angioplasty of stent (___), 
s/p small bowel resection for bowel ischemia (___), 
transferred from OSH for further evaluation of her abdominal 
pain.  A abdominal CTA at the OSH showed revealed extraluminal 
air.  The arterial pattern suggested occlusion of the ___ and 
celiac trunk with virtually the entirety of her bowel being 
supplied via the ___ and its collaterals.  Given her prior care 
at ___, she was tranferred here to the Vascular Surgery 
service. 

She reports abdominal pain starting 5 days prior to admission. 
She also
experienced some nausea and clear emesis. The last bowel
movement was 2 days ago. Patient denies melena or hematochezia.
She does not have any history of GI bleed. 
 
Past Medical History:
PMH: MI early 1990s, s/p cardiac cath, no intervention
PSH: ___ stenting ___, ___ stenting ___, Ex-lap and SBR
___, take back for bleeding ___, SMA stenting 
___,
hysterectomy

 
Social History:
___
Family History:
Brother and mother with DM. 
 
Physical Exam:
gen: NAD, comfortable, denies pain 
CV: RRR
pulm: CTA b/l 
abd: soft, nontender to palpation, no rebound, no guarding 
extremities: no edema, no erythema 
pulses: all palpable 

 
Pertinent Results:
___ 07:30AM BLOOD WBC-3.3* RBC-3.79* Hgb-9.6* Hct-30.5* 
MCV-81* MCH-25.4* MCHC-31.6 RDW-18.1* Plt ___
___ 07:30AM BLOOD Glucose-97 UreaN-2* Creat-0.5 Na-140 
K-3.9 Cl-111* HCO3-20* AnGap-13
___ 03:32PM BLOOD ALT-13 AST-16 LD(LDH)-165 CK(CPK)-82 
AlkPhos-75 Amylase-29 TotBili-1.8*
___ 03:32PM BLOOD %HbA1c-5.5 eAG-___ year old woman presented to OSH on ___ with 3 day history 
of fever, nausea and vomiting and abdominal pain. She also has a 
low grade fever with wbc 10, relative hypotension: 90/50 and 
anemia with hct 22.2 with guiac positive stool. She was 
pancultured, fluid rescuitated, transfused with 3 units PRBCs 
and started on zosyn.  A CTA of the abdomen on ___ showed 
occlusion of celiac artery, patent proximal SMA stents, ___ 
occluded at its origin which is unchanged from last scan on 
___.  Given her prior vascular procedures at ___ she was 
transferred to here for further management. 

She was kept NPO, on flagyl, cipro and vanco with gradual 
resolution of her abdominal pain. On hospital day 2, she was 
started on clear liquids with only mild abdominal tenderness. 
She continued to have guaic positive stools and a low grade temp 
to 99.5. On hospital day 4, she was changed to a regular diet 
and changed to oral flagyl and cipro.  All stool/urine/blood 
cultures have been negative to date with yersinia culture still 
pending. Hematocrit has been stable between ___. 

 
Medications on Admission:
Home medications:
1. clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily). 
2. aspirin 325 mg Tablet Sig: One (1) Tablet PO once a day.
 
Discharge Medications:
1. clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. nicotine 14 mg/24 hr Patch 24 hr Sig: One (1) Patch 24 hr 
Transdermal DAILY (Daily).  
3. ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q12H 
(every 12 hours).  
4. metronidazole 500 mg Tablet Sig: One (1) Tablet PO Q8H (every 
8 hours).  
5. aspirin 325 mg Tablet Sig: One (1) Tablet PO once a day.  
6. Zantac 150 mg Tablet Sig: One (1) Tablet PO once a day.  
7. simvastatin 20 mg Tablet Sig: One (1) Tablet PO at bedtime.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Nonvascular abdominal pain, likely infectious in nature.
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were transferred to ___ on ___ secondary to abdominal 
pain.  A CT angiogram at the outside hospital showed that only 
one of the stented arteries that supplies your bowel was open 
but this is unchanged from your previous scans.   

We felt that your abdominal pain was infectious in nature so we 
started you on 2 antibiotics, ciprofloxin and flagyl, which you 
are to continue for a total of 14 days.  You are to continue all 
your usual home medications.
 
Followup Instructions:
___